US07115600B2
1-[4-(3-Benzyloxymethyl-cyclobutyl)-benzyl]-pyrrolidine
To a stirring solution of 3-benzyloxymethyl-1-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanol (1.0 g, 2.8 mmol) in 10 mL of 1,2-dichlorethane was added triethyl silane (4.5 mL, 28.5 mmol) followed by the addition of trifluoroacetic acid (4.4 mL, 57.0 mmol). The reaction was then heated to 75 C (oil bath). After 1 hour the reaction was cooled to room temperature and then concentrated under reduced pressure. The crude material was taken up in EtOAc and washed with an aqueous solution of 1M NaOH. The layer were separated and the organic layer was dried over magnesium sulfate, filtered through a fritted funnel and concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography using a 45 g ISCO column, eluting with a gradient of 2% MeOH/CH2Cl2 w/0.1% NH4OH, through 10% MeOH/CH2Cl2 w/0.1% NH4OH. The product containing fractions were collected and concentrated to give the title compound (yield not determined due to presence of TFA) as a colorless oil and a 1:1 mixture of cis:trans isomers. Further purification of this material is not required.

reactant | 3-benzyloxymethyl-1-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanol | 2.8 mmol, 1.0 g | C(C1=CC=CC=C1)OCC1CC(C1)(O)C1=CC=C(C=C1)CN1CCCC1 | C23H29NO2
reactant | triethyl silane | 28.5 mmol, 4.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 57.0 mmol, 4.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichlorethane | 10 mL | ClCCCl | C2H4Cl2
product | 1-[4-(3-Benzyloxymethyl-cyclobutyl)-benzyl]-pyrrolidine | C(C1=CC=CC=C1)OCC1CC(C1)C1=CC=C(CN2CCCC2)C=C1 | C23H29NO
